### PR TITLE
[Merged by Bors] - refactor(NumberTheory): golf `Mathlib/NumberTheory/Padics/PadicNorm`

### PR DESCRIPTION
**Pull request by yuanyi-350**
- imports `Mathlib.Algebra.Order.Ring.IsNonarchimedean` and rewrites `add_eq_max_of_ne` to use `IsNonarchimedean.add_eq_max_of_ne`
- rewrites `sum_lt` and `sum_le` using `IsNonarchimedean.apply_sum_le_sup` and the corresponding `Finset.sup'` lemmas

Extracted from #38144

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by yuanyi-350** [comment]
I ran a profiler comparison for the changed declarations in this PR.

Results (seconds):
- `add_eq_max_of_ne`: `0.124761 -> 0.111557` (`-10.58%`)
- `sum_lt`: `0.193495 -> 0.012626` (`-93.47%`)
- `sum_le`: `0.156566 -> 0.012804` (`-91.82%`)

Overall:
- all three profiled declarations got faster
- the largest speedups are `sum_lt` and `sum_le`
- no regression was observed among the changed declarations profiled here

File: Mathlib/NumberTheory/Padics/PadicNorm.lean [hunk 1]
```diff
@@ -280,30 +266,14 @@ theorem not_int_of_not_padic_int (p : ℕ) {a : ℚ} [hp : Fact (Nat.Prime p)]
...
-    refine s.induction_on (by rintro ⟨-, ⟨⟩⟩) ?_
-    rintro a S haS IH - ht
-    by_cases hs : S.Nonempty
-    · rw [Finset.sum_insert haS]
-      exact
-        lt_of_le_of_lt padicNorm.nonarchimedean
-          (max_lt (ht a (Finset.mem_insert_self a S))
-            (IH hs fun b hb ↦ ht b (Finset.mem_insert_of_mem hb)))
-    · simp_all
+    s.Nonempty → (∀ i ∈ s, padicNorm p (F i) < t) → padicNorm p (∑ i ∈ s, F i) < t := fun hs hF ↦
```
Comment (loefflerd) [inline Mathlib/NumberTheory/Padics/PadicNorm.lean]: This violates the "hypotheses left of colon" rule in the mathlib style guide. (I know this is a pre-existing style violation, not added in this PR, but it would be a shame not to fix it while we are revisiting this code.)

File: Mathlib/NumberTheory/Padics/PadicNorm.lean [hunk 2]
```diff
@@ -280,30 +266,14 @@ theorem not_int_of_not_padic_int (p : ℕ) {a : ℚ} [hp : Fact (Nat.Prime p)]
...
-    refine s.induction_on (by rintro ⟨-, ⟨⟩⟩) ?_
-    rintro a S haS IH - ht
-    by_cases hs : S.Nonempty
-    · rw [Finset.sum_insert haS]
-      exact
-        padicNorm.nonarchimedean.trans
-          (max_le (ht a (Finset.mem_insert_self a S))
-            (IH hs fun b hb ↦ ht b (Finset.mem_insert_of_mem hb)))
-    · simp_all
+    s.Nonempty → (∀ i ∈ s, padicNorm p (F i) ≤ t) → padicNorm p (∑ i ∈ s, F i) ≤ t := fun hs hF ↦
```
Comment (loefflerd) [inline Mathlib/NumberTheory/Padics/PadicNorm.lean]: Same here

**Review by loefflerd — COMMENTED** [review]
LGTM now, thanks for doing the extra cleanup

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
